US04022898
Upon heating a solution of 9.3 g of 3-bromobenzaldehyde, 5.6 g of cyclohexane-1,3-dione and 6.5 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 8 hours, 2-amino-4-(3-bromophenyl-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester of melting point 255° C. (ethanol) is obtained. Yield: 44% of theory.

reactant | 3-bromobenzaldehyde | 9.3 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | cyclohexane-1,3-dione | 5.6 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | amidinoacetic acid ethyl ester | 6.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 3-bromophenyl-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester | Yield: 44% | C(C)OC(=O)C1=CN(C=2CCCC(C2C1)=O)C1=CC(=CC=C1)Br | C18H18BrNO3
